US07777042B2
(S)-1-(3-(Fluoro)benzenesulfonyl)-piperidine-2-carboxylic acid benzyl ester
To a mixture of (S)-piperidine-2-carboxylic acid benzyl ester hydrochloride (5.00 g, 19.5 mmol) and triethylamine (5.50 mL, 39.1 mmol) in dichloromethane (150 mL) was added 3-fluorobenzenesulfonyl chloride (3.80 g, 19.5 mmol). The mixture was stirred at room temperature for 5 h as it turned to a white suspension. The suspension was washed twice with distilled water. The organic layer was then dried over magnesium sulfate and concentrated to afford 9 g of crude oil. Flash column chromatography on silica gel (ethyl acetate/n-heptane) provided 6.51 g (88.3%) of the title compound as a yellow oil.

reactant | (S)-piperidine-2-carboxylic acid benzyl ester hydrochloride | 19.5 mmol, 5.00 g | Cl.C(C1=CC=CC=C1)OC(=O)[C@H]1NCCCC1
reactant | triethylamine | 39.1 mmol, 5.50 mL | C(C)N(CC)CC | C6H15N
reactant | 3-fluorobenzenesulfonyl chloride | 19.5 mmol, 3.80 g | FC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | (S)-1-(3-(Fluoro)benzenesulfonyl)-piperidine-2-carboxylic acid benzyl ester | 6.51 g, 88.3% | C(C1=CC=CC=C1)OC(=O)[C@H]1N(CCCC1)S(=O)(=O)C1=CC(=CC=C1)F | C19H20FNO4S
